US05123951
Mono-ethyl ethoxymalonate (2.75 grams, 0.02 mole), prepared in Part A, 3,5-dichloroaniline (2.53 grams, 0.02 mole) and 1,3-dicyclohexylcarbodiimide (3.22 grams, 0.02 mole) were reacted in a manner similar to that described in Example LVII to give 1.92 grams (0.006 mole) of ethyl 3-[(3,5-dichlorophenyl)amino]-2-ethoxy-3-oxopropanoate having a melting point of 89.0° C.-92.5° C. An analytical sample recrystallized from ethyl acetate-hexane had a melting point of 84° C.-86° C.

reactant | Mono-ethyl ethoxymalonate | 0.02 mole, 2.75 grams | C(C)OC(C(=O)OCC)C(=O)[O-]
reactant | 3,5-dichloroaniline | 0.02 mole, 2.53 grams | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | 1,3-dicyclohexylcarbodiimide | 0.02 mole, 3.22 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | ethyl 3-[(3,5-dichlorophenyl)amino]-2-ethoxy-3-oxopropanoate | 0.006 mole, 1.92 grams | ClC=1C=C(C=C(C1)Cl)NC(C(C(=O)OCC)OCC)=O | C13H15Cl2NO4
